US07192968B2
(1R,3S,4S)-3-Azido-4-(N-tert-butoxycarbonyl-amino)cyclohexane-1-carboxylic acid
Benzyl (1R,3S,4S)-3-azido-4-(N-tert-butoxycarbonylamino)cyclohexane-1-carboxylate (4.4 g) was dissolved in tetrahydrofuran (160 ml) and water (20 ml), and lithium hydroxide (366 mg) was added under ice cooling. After 10 minutes, the mixture was heated to room temperature to continue stirring. After 20 hours, the solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (methanol:dichloromethane=1:10) to obtain the title compound (1.86 g) as a pale yellow oil.

reactant | Benzyl (1R,3S,4S)-3-azido-4-(N-tert-butoxycarbonylamino)cyclohexane-1-carboxylate | 4.4 g | N(=[N+]=[N-])[C@H]1C[C@@H](CC[C@@H]1NC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C19H26N4O4
reactant | lithium hydroxide | 366 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | (1R,3S,4S)-3-Azido-4-(N-tert-butoxycarbonyl-amino)cyclohexane-1-carboxylic acid | 1.86 g | N(=[N+]=[N-])[C@H]1C[C@@H](CC[C@@H]1NC(=O)OC(C)(C)C)C(=O)O | C12H20N4O4
